US07612114B2
4-{2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzylamino]phenyl}vinyl}phenol
Synthesized from acetic acid 4-[2-(2-aminophenyl)vinyl]phenyl ester (328 mg) and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride (500 mg) according to an analogous synthetic method to Example 152, the title compound (365 mg) was obtained.

reactant | acetic acid 4-[2-(2-aminophenyl)vinyl]phenyl ester | 328 mg | NC1=C(C=CC=C1)C=CC1=CC=C(C=C1)OC(C)=O | C16H15NO2
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride | 500 mg | Cl.FC=1C=C(C(=O)Cl)C=CC1OCCN1CCCCC1
product | 4-{2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzylamino]phenyl}vinyl}phenol | 365 mg | FC=1C=C(CNC2=C(C=CC=C2)C=CC2=CC=C(C=C2)O)C=CC1OCCN1CCCCC1 | C28H31FN2O2
